US07507729B2
a) (3-Bromo-2-oxo-2H-pyridin-1-yl)-acetic acid ethyl ester
As described for example 320a, 3-bromo-2-hydroxy-pyridine was reacted with ethyl bromoacetate and potassium carbonate. Extractive workup followed by chromatography (SiO2, heptane:ethyl acetate=100:0 to 50:50) afforded the title compound as a light yellow oil (yield: 55%), which was directly used in the next step.

reactant | 3-bromo-2-hydroxy-pyridine | BrC=1C(=NC=CC1)O | C5H4BrNO
reactant | ethyl bromoacetate | BrCC(=O)OCC | C4H7BrO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | heptane | CCCCCCC | C7H16
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (3-Bromo-2-oxo-2H-pyridin-1-yl)-acetic acid ethyl ester | yield: 55% | C(C)OC(CN1C(C(=CC=C1)Br)=O)=O | C9H10BrNO3
